US08563617B2
34.1 7-Amino-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-ol
1-(3,4-Dichlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-amine (10 g, 26.8 mmol, cf. example 3.2 were dissolved in dichloromethane (240 mL). The suspension was cooled to −10° C. and a 1 M solution of bortribromide in dichloromethane (80 mL, 80 mmol). The solution was allowed to warm to room temperature and stirring was continued for 3 h. The reaction mixture was poured on ice (1 L). The aqueous layer was made alkaline (pH 10) with 2N sodium hydroxide solution. The layers were separated. The aqueous layer was extracted with dichloromethane and the combined organic layers were washed with saturated NaHCO3 solution and water. The organic layers were dried (Na2SO4) and concentrated in vacuo. The crude product was used without further purification for the next step. Yield: 10.8 g

reactant | 1-(3,4-Dichlorobenzyl)-7-methoxy-1,2,3,4-tetrahydronaphthalen-2-amine | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)OC)N)C=CC1Cl | C18H19Cl2NO
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mmol, 80 mL | ClCCl | CH2Cl2
product | 7-Amino-8-(3,4-dichlorobenzyl)-5,6,7,8-tetrahydronaphthalen-2-ol | NC1CCC=2C=CC(=CC2C1CC1=CC(=C(C=C1)Cl)Cl)O | C17H17Cl2NO
